US04517187
Using the techniques described in Example 1, 4.8 g of trans-1,2,3,4-tetrahydro-1-methylaminomethyl-4-phenylisoquinoline dihydrochloride is reacted with 4.5 g ethyloxalate in the presence of triethylamine to provide 4.2 g of trans-1,3,4,6,7,11b-hexahydro-2-methyl-7-phenyl- 2H-pyrazino[2,1-a]isoquinoline-3,4-dione.

reactant | trans-1,2,3,4-tetrahydro-1-methylaminomethyl-4-phenylisoquinoline dihydrochloride | 4.8 g | Cl.Cl.CNC[C@@H]1NC[C@H](C2=CC=CC=C12)C1=CC=CC=C1
reactant | ethyloxalate | 4.5 g | C(C)OC(C(=O)[O-])=O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | trans-1,3,4,6,7,11b-hexahydro-2-methyl-7-phenyl- 2H-pyrazino[2,1-a]isoquinoline-3,4-dione | 4.2 g | CN1C[C@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)C(C1=O)=O | C19H18N2O2
